US04950674
4-(4-Chlorobutyoxy)benzoic acid methyl ester
A mixture of 30.4 g (0.2 mole) of methyl-4-hydroxybenzoate, 68.6 g (0.4 mole) of 1-bromo-4-chlorobutane and 82.9 g (0.6 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 17 hr. The mixture was cooled, filtered, and the filtrate concentrated under reduced pressure to give an oil which crystallized. The solid was triturated with cold petroleum ether (30°-60° C.), collected by filtration, and dried to yield 44.3 g (92%) of title compound as a white solid. An analytical sample, mp 28.5°-29° C., was prepared from petroleum ether (30°-60° C.).

reactant | methyl-4-hydroxybenzoate | 0.2 mole, 30.4 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 1-bromo-4-chlorobutane | 0.4 mole, 68.6 g | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 0.6 mole, 82.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 4-(4-Chlorobutyoxy)benzoic acid methyl ester | 44.3 g, 92% | COC(C1=CC=C(C=C1)OCCCCCl)=O | C12H15ClO3
